data/mechanism_extracts/OrgLett/10.1021_acs.orglett.4c00756.json
{"doi": "10.1021_acs.orglett.4c00756", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Metal-free electrocatalytic iodide-mediated cascade bicyclization of N-allyl enamine carboxylates to give [3.1.0]-azabicycles and γ-butyrolactone-fused 1-pyrrolines", "mechanism_family": ["mediator_anodic", "cation_initiated", "electrocatalysis_outer_sphere"], "electrochemical_role": "Anodic oxidation of iodide to a hypervalent/cationic I+ species which acts as the active electrophilic mediator; cathodic reduction of protons to H2 maintains charge balance", "key_intermediates": [{"name": "I+ (cationic iodide / hypervalent iodine species) generated by anodic oxidation of I-", "smiles": null, "role": "reactive"}, {"name": "iodonium-activated alkene (iodiranium on pendant allyl of enamine)", "smiles": null, "role": "transient"}, {"name": "iodocyclized pyrroline intermediate B (5-exo-tet cyclized C-I pyrroline)", "smiles": null, "role": "reactive"}, {"name": "tautomerized pyrroline intermediate C bearing CH2I and enamine ester", "smiles": null, "role": "reactive"}, {"name": "iodocyclized intermediate 5a' (cis-diastereomer, isolated)", "smiles": null, "role": "reactive"}, {"name": "trans-iodopyrroline 5a (isolated)", "smiles": null, "role": "off_pathway"}, {"name": "alcohol 6a (proposed but not observed)", "smiles": null, "role": "off_pathway"}, {"name": "[3.1.0]-azabicycle 2 (product via intramolecular cyclopropanation)", "smiles": null, "role": "reactive"}, {"name": "γ-butyrolactone-fused pyrroline 4 (product via ester annulation/dealkylation)", "smiles": null, "role": "reactive"}], "electron_flow": "At the graphite anode, I- is oxidized (-2e-) to I+, which activates the pendant allyl alkene of the N-allyl enamine to trigger 5-exo-tet iodocyclization to a C-I pyrroline; tautomerization then enables either intramolecular SN2 cyclopropanation (regenerating I-) to give the [3.1.0]-azabicycle, or, for tetrasubstituted enamines, ester O-attack/dealkylation to give the γ-butyrolactone-fused pyrroline. Protons are reduced at the Pt cathode to H2.", "rate_determining_step": "Anodic electro-oxidation of iodide to I+ (CV shows oxidation peaks at 0.86, 1.20, and 1.43 V required for catalyst turnover)", "probe_reagents": [{"name": "molecular I2 (catalytic or stoichiometric)", "smiles": "II", "purpose": "intermediate_trap", "observation": "No formation of 2a with I2 alone (cat. or stoich.), confirming that electrochemical oxidation to I+ is required and that I2 itself is not the active species"}, {"name": "dry MeCN (no water)", "smiles": "CC#N", "purpose": "other", "observation": "Diminished yield of 2a in absence of water; water aids KI solubility, stabilizes charged intermediates, and facilitates proton mobility"}, {"name": "O2 / Ar atmosphere control", "smiles": null, "purpose": "radical_trap", "observation": "Yields under air (84%), O2 (85%), and Ar (81%) are essentially identical, ruling out aerobic oxidation and supporting a non-radical (ionic) pathway"}, {"name": "isolated iodocyclized intermediate 5a' (cis)", "smiles": null, "purpose": "intermediate_trap", "observation": "Isolated with 1 equiv KI at shorter time; under standard conditions cis-5a' lactonizes to 4a while trans-5a is recovered, confirming the iodocyclized pyrroline as a productive intermediate"}, {"name": "putative alcohol 6a", "smiles": null, "purpose": "intermediate_trap", "observation": "Not detected, excluded as an intermediate in lactone 4 formation"}], "evidence_types_used": ["cyclic_voltammetry", "isolation_of_intermediate", "intermediate_trap_other", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Atmosphere-independent yields and isolation of iodocyclized pyrrolines argue against a radical pathway and support an ionic iodonium/5-exo-tet mechanism. Divergence between [3.1.0]-azabicycle (R2 = H, cyclopropanation) and γ-butyrolactone-fused pyrroline (R2 = alkyl, ester annulation/dealkylation) is rationalized by substrate substitution. Borneol ester gave only modest dr (1:1.27), suggesting weak stereocontrol in the cyclization step."}
